US05965589
According to the same manner as that described in Example 1, (E)-3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamaldehyde was condensed with 2,4-thiazolidinedione to give 5-[3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamylidene]-2,4-thiazolidinedione (yield: 57%). This product was recrystallized from chloroform-methanol. Yellow needles, mp: 230-231° C.

reactant | (E)-3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamaldehyde | COC=1C=C(/C=C/C=O)C=CC1OCC=1N=C(OC1)C1=CC=CC=C1 | C20H17NO4
reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-[3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamylidene]-2,4-thiazolidinedione | yield: 57% | COC=1C=C(C=CC=C2C(NC(S2)=O)=O)C=CC1OCC=1N=C(OC1)C1=CC=CC=C1 | C23H18N2O5S
